US04602936
With cooling, 7.9 g of 97%, 1,8-diazabicyclo[5.4.0]undec-7-ene are added to a suspension of 6.2 g of 97% 4,5-dihydro-2-mercaptothiazole in 50 ml of acetonitrile. To the yellow solution so obtained are added 10.3 g of 2-chloromethylbenzenesulfonamide and the reaction mixture is stirred for 1 hour at 20°-25° C. The reaction solution is then diluted with about 1 liter of water. The precipitate is isolated by filtration and dried, affording 11.9 g (76% of theory) of 4,5-dihydro-2-(2-sulfamoylphenylmethylthio)thiazole of m.p. 123°-125° C.

reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4,5-dihydro-2-mercaptothiazole | 6.2 g | SC=1SCCN1 | C3H5NS2
reactant | 2-chloromethylbenzenesulfonamide | 10.3 g | ClCC1=C(C=CC=C1)S(=O)(=O)N | C7H8ClNO2S
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | about 1 liter | O | H2O
product | 4,5-dihydro-2-(2-sulfamoylphenylmethylthio)thiazole | 11.9 g, 76% | S(N)(=O)(=O)C1=C(C=CC=C1)CSC=1SCCN1 | C10H12N2O2S3
